US09447106B2
To a solution of 2-(methoxy(4-phenoxyphenyl)methylene)malononitrile (392 mg, 1.42 mmol) in ethanol (30 mL) was added (2-bromo-5-nitrophenyl)hydrazine (300 mg, 1.29 mmol) in one portion, then the mixture was stirred at 70° C. under N2 overnight. The mixture was concentrated to dryness and chromatographed on 5 g of silica gel using PE/EA (10/1 to 2/1) as eluant to afford 128 mg (21%) of 5-amino-1-(2-bromo-5-nitrophenyl)-3-(4-phenoxyphenyl)-1H-pyrazole-4-carbonitrile as a yellow solid. MS (ESI) m/e [M+1]+ 476, 478.

reactant | 2-(methoxy(4-phenoxyphenyl)methylene)malononitrile | 1.42 mmol, 392 mg | COC(=C(C#N)C#N)C1=CC=C(C=C1)OC1=CC=CC=C1 | C17H12N2O2
reactant | (2-bromo-5-nitrophenyl)hydrazine | 1.29 mmol, 300 mg | BrC1=C(C=C(C=C1)[N+](=O)[O-])NN | C6H6BrN3O2
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 5-amino-1-(2-bromo-5-nitrophenyl)-3-(4-phenoxyphenyl)-1H-pyrazole-4-carbonitrile | 128 mg, 21% | NC1=C(C(=NN1C1=C(C=CC(=C1)[N+](=O)[O-])Br)C1=CC=C(C=C1)OC1=CC=CC=C1)C#N | C22H14BrN5O3
